US07582773B2
Step 1: Synthesis of 3-Benzyl-5-bromo-2-methyl-1H-indole.
The desired product was prepared using a procedure similar to step 1 of example 3. Thus, 4-bromophenylhydrazine, hydrochloride (4.694 g, 21 mmol) was reacted with benzylacetone (2.964 g, 20 mmol) in ethanol (60 ml) to give the product (3.199 g, 10.657 mmol, 51%) as a tan solid, mp 130-134° C. 1H NMR (DMSO-d6) δ 2.36 (s, 3H), 3.95 (s, 2H), 7.05 (dd, J=1.8, 8.4 Hz, 1H), 7.12 (t, J=7.2 Hz, 1H), 7.17-7.20 (m, 3H), 7.23 (t, J=7.8 Hz, 2H), 7.43 (d, J=1.7 Hz, 1H), 11.01 (s, 1H); [ESI(−)], m/z 298/300 (M−H)−.

reactant | 4-bromophenylhydrazine, hydrochloride | 21 mmol, 4.694 g | Cl.BrC1=CC=C(C=C1)NN
reactant | benzylacetone | 20 mmol, 2.964 g | C(C1=CC=CC=C1)CC(C)=O | C10H12O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-Benzyl-5-bromo-2-methyl-1H-indole | C(C1=CC=CC=C1)C1=C(NC2=CC=C(C=C12)Br)C | C16H14BrN
